US09108939B2
B: 1-(2-Fluoro-4-((1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)(hydroxy)methyl)phenyl)-3-((S)-tetrahydrofuran-3-yl)urea
2-(4-((4-((4-Amino-3-fluorophenyl)(hydroxy)methyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (0.125 mmol, 60 mg) and 4-nitrophenyl chloroformate (0.125 mmol, 25.2 mg) were combined in tetrahydrofuran (2 mL) and the reaction stirred at room temperature for 1 hour. (S)-Tetrahydrofuran-3-amine hydrochloride (0.125 mmol, 15.43 mg) and triethylamine (0.500 mmol, 50.6 mg) were added and the mixture stirred at room temperature overnight. The mixture was concentrated under reduced pressure and the resulting residue purified by silica gel column chromatography (eluting with dichloromethane to 10% methanol/dichloromethane) to afford the title compound (13 mg). MS (ESI) m/z 594.7 [M+H]+

reactant | 2-(4-((4-((4-Amino-3-fluorophenyl)(hydroxy)methyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.125 mmol, 60 mg | NC1=C(C=C(C=C1)C(C1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)O)F | C22H23F7N2O2
reactant | 4-nitrophenyl chloroformate | 0.125 mmol, 25.2 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | (S)-Tetrahydrofuran-3-amine hydrochloride | 0.125 mmol, 15.43 mg | Cl.O1C[C@H](CC1)N
reactant | triethylamine | 0.500 mmol, 50.6 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 1-(2-Fluoro-4-((1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)(hydroxy)methyl)phenyl)-3-((S)-tetrahydrofuran-3-yl)urea | 13 mg | FC1=C(C=CC(=C1)C(O)C1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)NC(=O)N[C@@H]1COCC1 | C27H30F7N3O4
